US06855710B2
(Z)-3-[1-(3-methoxy-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 2 from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and 3-methoxyaniline in THF and subsequent treatment with sodium hydroxide solution.

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C17H12ClNO2
reactant | 3-methoxyaniline | COC=1C=C(N)C=CC1 | C7H9NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-3-[1-(3-methoxy-phenylamino)-1-phenyl-methylidene]-2-indolinone | COC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H18N2O2
